US06051712
In an analogous manner to that described in Example 1(g), by alkylating tert-butyl (3RS,4RS)-4-(4-fluorophenyl)-3-hydroxy-piperidine-1-carboxylate with 6-chloromethyl-2,3-dihydro-benzo[1,4]dioxin [Brit. Pat. 566732 (1943)] there was obtained tert-butyl (3RS,4RS)-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethoxy)-4-(4-fluorophenyl)-piperidine-1-carboxylate as a colourless solid; MS: 444 (M+H)+ ;

reactant | tert-butyl (3RS,4RS)-4-(4-fluorophenyl)-3-hydroxy-piperidine-1-carboxylate | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22FNO3
reactant | 6-chloromethyl-2,3-dihydro-benzo[1,4]dioxin | ClCC1=CC2=C(OCCO2)C=C1 | C9H9ClO2
product | tert-butyl (3RS,4RS)-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethoxy)-4-(4-fluorophenyl)-piperidine-1-carboxylate | O1CCOC2=C1C=CC(=C2)COC2CN(CCC2C2=CC=C(C=C2)F)C(=O)OC(C)(C)C | C25H30FNO5
